US04024128
In a manner analogous to that described in Example 1, from 3-dipropylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide and cyclohexylisocyanate, there is obtained 1-cyclohexyl-3-[(3-dipropylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]urea, m.p. 179°-180° C. The starting material can be prepared by the reaction of 2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide hydrochloride with dipropylcarbamoyl chloride in a manner analogous to that described in Example 1.

reactant | 3-dipropylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide | C(CC)N(C(=O)N1CCC2=C(CC1)C=CC(=C2)S(=O)(=O)N)CCC | C17H27N3O3S
reactant | cyclohexylisocyanate | C1(CCCCC1)N=C=O | C7H11NO
product | 1-cyclohexyl-3-[(3-dipropylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]urea | C1(CCCCC1)NC(=O)NS(=O)(=O)C1=CC2=C(CCN(CC2)C(N(CCC)CCC)=O)C=C1 | C24H38N4O4S
